US06777409B2
2-Methyl-2-(1-naphthyl)-propionitrile
A solution of 16.7 g (100 mmol) of 1-naphthylacetonitrile in 200 m of DMF and 15 ml (240 mmol) of methyl iodide is mixed at 0° C. with 10.4 g (260 mmol) of sodium hydride (addition within 2.5 hours). The batch is stirred for 3 hours at 0° C. and for 18 hours at 25° C. It is mixed with ice and ethyl acetate. The organic phase is acidified with 10% H2SO4, washed three times with water, dried (Na2SO4) and concentrated by evaporation in a vacuum. A large-scale purification is carried out by bulb tube distillation (boiling range 60-130° C.) in an oil pump vacuum; yield: 18.8 g.

reactant | 1-naphthylacetonitrile | 100 mmol, 16.7 g | C1(=CC=CC2=CC=CC=C12)CC#N | C12H9N
reactant | methyl iodide | 240 mmol, 15 ml | CI | CH3I
reactant | sodium hydride | 260 mmol, 10.4 g | [H-].[Na+]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
reactant | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Methyl-2-(1-naphthyl)-propionitrile | CC(C#N)(C)C1=CC=CC2=CC=CC=C12 | C14H13N
